US04602027
A mixture of methyl 3-cinnamoylamino-4-oxovalerate (2.2 g), phosphorus oxychloride (2.2 ml) and toluene (24 ml) was refluxed with stirring for an hour. The solvent was distilled off and the residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and ethanol (8 ml) and 2N sodium hydroxide (8 ml) were added to the residue. The mixture was stirred for 30 minutes and adjusted to pH 2 with diluted hydrochloric acid. The resulting crystalline precipitate was collected by filtration to give 5-methyl-2-styryl-4-oxazoleacetic acid; yield 1.50 g (77.3%). Recrystallization from ethanol gave pale brown needles melting at 182°-183° C. The IR and NMR spectra of this product were in good agreement with those of the compound obtained in Example 1.

reactant | methyl 3-cinnamoylamino-4-oxovalerate | 2.2 g | C(C=CC1=CC=CC=C1)(=O)NC(CC(=O)OC)C(C)=O | C15H17NO4
reactant | phosphorus oxychloride | 2.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-styryl-4-oxazoleacetic acid | CC1=C(N=C(O1)C=CC1=CC=CC=C1)CC(=O)O | C14H13NO3
